Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left lower Quadrant pain, secondary to left hemorrhagic ovarian 
cyst
 
Major Surgical or Invasive Procedure:
None

 
Physical Exam:
 Gen: NAD, resting comfortably in hospital bed. 
 CV: RRR
 Pulm: LCTAB
 Abd: nondistended, positive bowel sounds, midly tender to
palpation on left, no rebound/guarding
 Ext: BLE nontender, nonedematous 

 
Pertinent Results:
___ 06:07AM BLOOD WBC-8.5 RBC-4.78 Hgb-10.5* Hct-34.0 
MCV-71* MCH-22.0* MCHC-30.9* RDW-16.5* RDWSD-41.7 Plt ___
___ 06:07AM BLOOD Neuts-69.3 ___ Monos-5.6 Eos-0.2* 
Baso-0.5 Im ___ AbsNeut-5.90 AbsLymp-2.03 AbsMono-0.48 
AbsEos-0.02* AbsBaso-0.04
___ 06:07AM BLOOD Plt ___
___ 06:07AM BLOOD ___ PTT-28.2 ___
___ 06:07AM BLOOD Glucose-120* UreaN-9 Creat-0.6 Na-138 
K-4.4 Cl-105 HCO3-22 AnGap-11
___ 06:07AM BLOOD ALT-20 AST-15 AlkPhos-47 TotBili-0.2

___ 02:00PM URINE  UCG-NEGATIVE

___ 02:00PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-SM*

___ 02:00PM URINE  RBC-10* WBC-7* BACTERIA-NONE YEAST-NONE 
EPI-<1
 
Brief Hospital Course:
Ms ___ is a ___ yo perimenopausal ___ s/p TLH (___) and 
chronic constipation
who was admitted on ___ to the gynecologic service from the 
ED for pain management and observation in the setting of a left 
hemorrhagic cyst. 

A pelvic ultrasound in the ED revealed a left ovary measuring 
7.9 x 5.6 x 5.0 cm with multipleanechoic cysts, up to 3.7 cm, as 
well as a complex component representing hemorrhagic cyst. Trace 
free fluid was seen as well. Tumor markers were sent which 
returned negative for CEA, CA125. ___ still pending. UA showed 
microscopic hematuria, likely secondary to ___ 
inflammation. For pain control patient was given morphine but 
once on the floor, patient did not require any additional pain 
medication excepting acetaminophen. 

On hospital day 2, ___, patient's pain was well controlled 
and patient could ambulate, void, tolerate PO. At that time, 
patient was deemed medically safe for discharge to home with 6 
week follow up in ___ clinic with repeat UA and pelvic 
ultrasound. 

 
Medications on Admission:
meclizine PRN 
daily iron supplement 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not exceed 4000mg in a day 
RX *acetaminophen 500 mg 1 tablet(s) by mouth Q6H PRN Disp #*50 
Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
Hold for loose stools 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
Do not exceed 2400mg in a day. Take with food. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth Q6H PRN Disp #*60 
Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left hemorrhagic cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Gynecology service for left hemorrhagic 
cyst and management of your pain. At this time, your pain is 
under better control and you are medically safe for discharge to 
home. 

For your pain you will be prescribed acetaminophen and 
ibuprofen. Please take as indicated. If you like, you may follow 
this pain regimen below:
- 8am: acetaminophen 500mg
- 12pm: ibuprofen 600mg WITH FOOD
- 4pm: acetaminophen 500mg 
- 8pm: ibruprofen 600mg WITH FOOD.

* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication
 
Followup Instructions:
___